US07176216B2
tert-Butyl N-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)carbamate
To a solution of 2-ethyl-3-nitropyrazolo[1,5-a]pyridine (7.65 g, 40 mmol) dissolved in a mixture of isopropyl alcohol (153 mL) and acetic acid (11.5 mL) was added di-tert-butyl dicarbonate (14 g, 64 mmol) and 5% palladium-carbon (1.53 g, 50% wet), and reaction was conducted for 3 hours at room temperature under a hydrogen atmosphere (0.3 MPa). After the reaction, the reaction mixture was filtered and the obtained filtrate was evaporated. The residue was dissolved in ethyl acetate, and the ethyl acetate solution was washed with aqueous sodium bicarbonate and brine. The organic extract was dried over magnesium sulfate and evaporated to dryness. Isopropyl alcohol (7.7 mL) and heptane (38.3 mL) were added thereto and the mixture was heated to 60° C. for dissolution. Slow cooling produced a precipitate, and then heptane (15.3 mL) was added thereto. After allowing the mixture to stand overnight and then stirring for 30 minutes with ice bath, the precipitate was collected by filtration and washed with heptane. The precipitate was dried under reduced pressure to afford 7.58 g of the title compound (71% yield).

reactant | 2-ethyl-3-nitropyrazolo[1,5-a]pyridine | 40 mmol, 7.65 g | C(C)C1=NN2C(C=CC=C2)=C1[N+](=O)[O-] | C9H9N3O2
reactant | di-tert-butyl dicarbonate | 64 mmol, 14 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | heptane | 15.3 mL | CCCCCCC | C7H16
solvent | isopropyl alcohol | 153 mL | C(C)(C)O | C3H8O
solvent | acetic acid | 11.5 mL | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | 1.53 g | [C].[Pd]
product | tert-Butyl N-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)carbamate | 7.58 g, 71% yield | C(C)C1=NN2C(C=CC=C2)=C1NC(OC(C)(C)C)=O | C14H19N3O2
